US05464830
α,α-difluoro-β-hydroxy-3-(2-pyridinyl)propanoic acid, hydrazide (10)
To stirring solution of 0.96 g (4.1 mmol) of ethyl 3-(2-pyridyl)-3-hydroxy-2,2-difluoropropanoate, prepared as described by Hallinan and Fried, Tetrahedron Lett., 25, 2301 (1984), in 8 mL of EtOH was added 0.41 g (8.2 mmol) of hydrazine hydrate. After 16 hours, a yellow precipitate had formed. To the reaction was added H2O. The precipitate was filtered and washed with a minimum of H2O. The yield of product was 0.44 g (49%) after drying in a steam cabinet. Analysis calculated for C8H9N3O2F2 (M.W. 217.18): C, 44.24; H, 4.18; N, 19.35. Found: C, 44.07; H, 4.16; N, 19.05.

reactant | ethyl 3-(2-pyridyl)-3-hydroxy-2,2-difluoropropanoate | 4.1 mmol, 0.96 g | N1=C(C=CC=C1)C(C(C(=O)OCC)(F)F)O | C10H11F2NO3
reactant | hydrazine hydrate | 8.2 mmol, 0.41 g | O.NN
reactant | H2O | O | H2O
solvent | EtOH | 8 mL | CCO | C2H6O
product | α,α-difluoro-β-hydroxy-3-(2-pyridinyl)propanoic acid, hydrazide | FC(C(=O)NN)(C(C1=NC=CC=C1)O)F | C8H9F2N3O2
